US08030497B2
[4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-ylmethyl]-phenyl-amine
To a solution of 20 mg (0.039 mmol) of methanesulfonic acid 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-ylmethyl ester in DMF is added aniline (excess) and the reaction is stirred for 1 h at 60° C. The reaction mixture is extracted with sat. NaHCO3/water. The organic layer is evaporated and the residue is purified via reversed phase RP18-chromatographie to give 3.3 mg of the title compound.

reactant | methanesulfonic acid 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-ylmethyl ester | 0.039 mmol, 20 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)COS(=O)(=O)C | C22H27BrN2O5S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | DMF | CN(C)C=O | C3H7NO
product | [4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-ylmethyl]-phenyl-amine | 3.3 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)CNC2=CC=CC=C2 | C27H30BrN3O2
